US08283354B2
To a solution of (R)-tert-butyl 2-((benzyloxy)methyl)-4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazine-1-carboxylate (760 mg, 1.72 mmol) in 15 mL CH2Cl2 was added 10 mL of TFA. The reaction was stirred for 1 hour. TFA was removed under vacuum and the reaction was neutralized using a 1 M NaOH solution. The aqueous layer was extracted twice with CH2Cl2, dried over Na2SO4, filtered, and concentrated to obtain 2-(4-((R)-3-((benzyloxy)methyl)piperazin-1-yl)-7-methylquinazolin-2-yl)phenol (570 mg, 92%). This material was used in the next step without further purification. LC/MS: m/z 441.5 (M+H)+ at 2.44 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | (R)-tert-butyl 2-((benzyloxy)methyl)-4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazine-1-carboxylate | 1.72 mmol, 760 mg | C(C1=CC=CC=C1)OC[C@@H]1N(CCN(C1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)C(=O)OC(C)(C)C | C32H36N4O4
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-((R)-3-((benzyloxy)methyl)piperazin-1-yl)-7-methylquinazolin-2-yl)phenol | 570 mg, 92% | C(C1=CC=CC=C1)OC[C@H]1CN(CCN1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C27H28N4O2
